US06352993B1
Step 2: 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
4-fluoroaniline(0.46 ml, 4.70 mmol) and triethylamine(0.66 ml, 4.70 mmol) were added to a solution of 5,6-dimethyl-2-chloro-4-(1-methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(1.0 g, 3.13 mmol) in dimethyifomiamide(5 ml) and then stirred for 3 hours at 120° C. The reaction mixture was cooled to a room temperature and diluted with dichloromethane. Aqueous sodium hydroxide solution was added to the reaction mixture, which was then stirred. The dichloromethane layer was dried over anhydrous magnesium sulfate, concentrated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography and dissolved in ethanol. Ethyl ether saturated with hydrochloric acid was added to the solution. The resulting solid was filtered and dried to give 530 mg of the titled compound.

reactant | 4-fluoroaniline | 4.70 mmol, 0.46 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 4.70 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2-chloro-4-(1-methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3.13 mmol, 1.0 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC(=C(C=C2CC1)O)O)C | C16H18ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 530 mg, Yield: 39.3% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC(=C(C=C2CC1)O)O)C | InChI=1S/C22H23FN4O2.ClH/c1-12-13(2)24-22(25-17-6-4-16(23)5-7-17)26-21(12)27-9-8-15-10-19(28)20(29)11-18(15)14(27)3;/h4-7,10-11,14,28-29H,8-9H2,1-3H3,(H,24,25,26);1H
